US06489344B1
1 mmol of 2,4-dichlorophenacyl chloride in DMF was added drop wise to 10 mmol morpholine in DMF at room temperature for fourteen hours. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 50% ethyl acetate and 50% hexane to obtain 1-(2,4-dichlorophenyl)-2-morpholin-4-ylethan-1-one.

reactant | 2,4-dichlorophenacyl chloride | 1 mmol | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | morpholine | 10 mmol | N1CCOCC1 | C4H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2,4-dichlorophenyl)-2-morpholin-4-ylethan-1-one | ClC1=C(C=CC(=C1)Cl)C(CN1CCOCC1)=O | C12H13Cl2NO2
